US04213995
2-(2-Amino-6-chloro-4-methyl-phenylimino)-imidazolidine by method C
3.05 gm (0.012 mol) of 2-(2-chloro-4-methyl-6-nitrophenylimino)-imidazolidine were hydrogenated in a shaker autoclave at 25°-30° C. and atmospheric pressure in the presence of Raney nickel and in a 1:1 mixture of methanol and tetrahydrofurn until the theoretical amount of hydrogen had been absorbed. Thereafter, the catalyst was separated by suction filtration, and the filtrate was evaporated in vacuo until the weight of the residue remained constant. Yield: 2.6 gm (96.5% of theory) of 2-(2-amino-6-chloro-4-methyl-phenylimino)-imidazolidine, an oily substance having an Rf -value of 0.3 in the mobile phase 50 parts benzene, 40 parts dioxane, 5 parts ethanol and 5 parts concentrated ammonium hydroxide; carrier: silicagel G; visualization: ultraviolet light and potassium iodoplatinate.

reactant | 2-(2-chloro-4-methyl-6-nitrophenylimino)-imidazolidine | 0.012 mol, 3.05 gm | ClC1=C(C(=CC(=C1)C)[N+](=O)[O-])N=C1NCCN1 | C10H11ClN4O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 2-(2-Amino-6-chloro-4-methyl-phenylimino)-imidazolidine | NC1=C(C(=CC(=C1)C)Cl)N=C1NCCN1 | C10H13ClN4
